* expanding   symbol:  design/single_slope/opamp_singleslope_wcapnew.sym # of pins=6
** sym_path: /foss/design/single_slope/opamp_singleslope_wcapnew.sym
** sch_path: /foss/design/single_slope/opamp_singleslope_wcapnew.sch
.subckt opamp_singleslope_wcapnew  vdd iref vin- vin+ vout vss
*.iopin vdd
*.iopin vss
*.iopin vin+
*.iopin vin-
*.iopin vout
*.iopin iref
XM1 C vin- B vdd sky130_fd_pr__pfet_01v8 L=0.50 W=42 nf=6 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM2 net1 vin+ B vdd sky130_fd_pr__pfet_01v8 L=0.50 W=42 nf=6 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 C C vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM4 net1 C vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM5 B iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=10 m=10
XM6 iref iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM29 vout iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=20 m=20
XM30 vout net1 vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8
XC1 net1 vout sky130_fd_pr__cap_mim_m3_1 W=11 L=11 MF=16 m=16
.ends


