* expanding   symbol:  design/single_slope/preamp_singleslope.sym # of pins=7
** sym_path: /foss/design/single_slope/preamp_singleslope.sym
** sch_path: /foss/design/single_slope/preamp_singleslope.sch
.subckt preamp_singleslope  vdd inp inn iref outp outn vss
*.iopin vdd
*.iopin vss
*.iopin iref
*.iopin inn
*.iopin inp
*.iopin outp
*.iopin outn
XM16 net1 iref vdd vdd sky130_fd_pr__pfet_01v8 L=5 W=27 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=10 m=10
XM17 outp C vss vss sky130_fd_pr__nfet_01v8 L=5 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM18 outn C vss vss sky130_fd_pr__nfet_01v8 L=5 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM21 iref iref vdd vdd sky130_fd_pr__pfet_01v8 L=5 W=27 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM1 outp inn net1 vdd sky130_fd_pr__pfet_01v8_lvt L=5 W=44 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=6 m=6
XM2 outn inp net1 vdd sky130_fd_pr__pfet_01v8_lvt L=5 W=44 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=6 m=6
XR1 C outp vss sky130_fd_pr__res_xhigh_po_0p35 L=7 mult=1 m=1
XR2 C outn vss sky130_fd_pr__res_xhigh_po_0p35 L=7 mult=1 m=1
.ends


